US07560558B2
Methyl 10-(2-methoxy-5-methyl-phenyl)-10-oxo-decanoate (1.6 g) was dissolved in methylene chloride (30 ml), 1 M boron tribromide (7.5 ml) was added to the solution at −78° C., and the mixture was stirred at room temperature for 30 min. Water was added to the reaction solution, and the mixture was extracted with chloroform, and the chloroform layer was then washed with water and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-hexane to give methyl 10-(2-hydroxy-5-methyl-phenyl)-10-oxo-decanoate (546 mg, yield 34%).

reactant | Methyl 10-(2-methoxy-5-methyl-phenyl)-10-oxo-decanoate | 1.6 g | COC1=C(C=C(C=C1)C)C(CCCCCCCCC(=O)OC)=O | C19H28O4
reactant | boron tribromide | 1 M, 7.5 ml | B(Br)(Br)Br | BBr3
reactant | Water | O | H2O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | methyl 10-(2-hydroxy-5-methyl-phenyl)-10-oxo-decanoate | 546 mg, yield 34% | OC1=C(C=C(C=C1)C)C(CCCCCCCCC(=O)OC)=O | C18H26O4
